Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
naproxen / methadone
 
Attending: ___.
 
Chief Complaint:
Pain in legs and back
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ yo woman with PMH of sickle cell anemia with multiple crises, 
transferred from ___ for sickle cell crisis. 

She was evaluated at ___ for sickle cell crisis 
consistent with prior pain crises. 
 Due to concern for need of exchange transfusion, she was 
transferred to ___ for ICU need for exchange transfusion. At 
___, she had received 24 mg of Dilaudid, 1 mg of 
Ativan, and an unspecified amount of IV hydration, prior to 
arrival. 

 

In our ED, Patient endorses several weeks of generalized body 
aches as well as pain in the chest, abdomen and joints similar 
to previous crises. She denies fever, chills. Of note, 
additionally having LUQ pain which is new. She follows at ___ 
for her medical care, including sickle cell care. 

 

Was noted to initially have blood pressures ___, possibly in 
setting of IV narcotics, however have since increased to 
100s/60s without any intervention. Otherwise afebrile, 98% with 
low volume NC. 

 

On exam appeared lethargic, had scleral icterus, had left upper 
quadrant abdominal pain, soft, no guarding.  Labs are notable 

for a white count of 17.4, hemoglobin 5.4, hematocrit 15.6%, LDH 
635, haptoglobin less than 10, T bili 3.8. EKG was unremarkable 
and troponins were negative. 

 

Due to concern for splenic infarct (LUQ pain), a CTAP was 
obtained in the ED. Hem/onc was additionally made aware of the 
patient and they will continue to follow while admitted. 

 

CTAP ED ___: 

1. Multiple nonspecific enlarged upper abdominal and 
retroperitoneal lymph nodes measuring up to 1.1 cm.

2. Sequelae of known sickle cell disease including findings of 
auto

splenectomy and multiple vertebral endplate irregularities.

3. Mild interstitial edema.

 

Following workup, patient was admitted to ___ for potential for 
exchange transfusion. 

 

On arrival to the FICU, pt stable, on RA, visible discomfort due 
to pain, follows commands but rarely speaks, presumably also due 
to pain. On revaluation following initiation of pain control, 
patient was conversing normally.
 
Past Medical History:
 CHF (HFpEF)

 Iron Overload (Jadenu at home, IV Desferat 2mg IV daily)

 Opioid contract with ___ 

 Pain

 Rheumatoid Arthritis - seropositive RF+, CCP+ on plaquenil

 Sickle Cell Disease SS (emergency crisis morphine 4mg IV q30min 
until pain < ___, ___ NP (___) for tx plan and 
dispo M-F ___. Page on call hematologist after hours (___)

  - acute chest 1990s required intubation

  - h/o small bowel vaso-occlusion

  - AVN s/p left THR
 
Social History:
___
Family History:
HTN, hyperthyroidism, osteoporosis, DM in mother 
 
Physical ___:
ADMISSION PHYSICAL EXAM:  
 VITALS: reviewed in metavision
 GENERAL: awake, alert, in pain
 HEENT: ATNC, PEERL
 NECK: supple
 LUNGS: CTA bilaterally, no wheezes or crackles 
 CV: RRR, flow murmur
 ABD: soft, nontender, nondistended
 EXT: no edema
 SKIN: no rashes
 NEURO: grossly normal CN II-XII, motor and sensory function.

DISCHARGE EXAM:
98.4 PO 125 / 66 68 18 ___ppearing, comfortable watching shows on her phone
PERRL, MMM
RRR, no murmur appreciated
CTAB, good air movement throughout
Soft, nontender, nondistended with normoactive BS
Moving all extremities, no edema
 
Pertinent Results:
ADMISSION LABS: 
===============
___ 04:17PM BLOOD WBC-17.4* RBC-1.48* Hgb-5.4* Hct-15.6* 
MCV-105* MCH-36.5* MCHC-34.6 RDW-18.7* RDWSD-74.5* Plt ___
___ 04:17PM BLOOD Neuts-52.6 ___ Monos-8.5 Eos-7.0 
Baso-0.6 NRBC-0.8* Im ___ AbsNeut-9.12* AbsLymp-5.32* 
AbsMono-1.48* AbsEos-1.22* AbsBaso-0.11*
___ 04:17PM BLOOD ___ PTT-26.8 ___
___ 04:17PM BLOOD ___
___ 04:17PM BLOOD Ret Man-19.2* Abs Ret-0.28*
___ 04:17PM BLOOD Glucose-89 UreaN-9 Creat-0.5 Na-139 K-4.4 
Cl-106 HCO3-23 AnGap-10
___ 04:17PM BLOOD ALT-22 AST-48* LD(LDH)-635* AlkPhos-58 
TotBili-3.8*
___ 04:17PM BLOOD Lipase-16
___ 04:17PM BLOOD cTropnT-<0.01
___ 04:17PM BLOOD Albumin-4.0 Calcium-8.4 Phos-3.7 Mg-1.8
___ 04:17PM BLOOD Hapto-<10*

MICRO:
======
Urine culture ___: No growth
Blood culture ___: Coagulase negative Staph in 1 set
Urine Strep and Legionella antigens ___: Negative
Blood culture ___: No growth
C. difficile ___: Negative
Stool ova and parasites ___: Negative

STUDIES: 
========
MRI brain with and without contrast ___:
1. No evidence of ischemia or intracranial hemorrhage.
2. Findings consistent with Chiari 1 malformation.
3. Re-identified is opacification of the bilateral mastoid air 
cells.

CT HEAD W/O CONTRAST Study Date of ___  
1. Normal study without evidence of acute bleed, infarct or 
mass. 

CT ABD & PELVIS WITH CONTRAST Study Date of ___  
1. Multiple nonspecific enlarged upper abdominal and 
retroperitoneal lymph 
nodes measuring up to 1.1 cm. 
2. Sequelae of known sickle cell disease including findings of 
auto 
splenectomy and H-shaped vertebral bodies indicating endplate 
infarction. 
3. Mild interstitial edema partially visualized in the lung 
bases. 

CHEST (PA & LAT) Study Date of ___  
1. Mild cardiomegaly, mild interstitial edema. 
2. Numerous H-shaped vertebrae reflect chronic vertebral 
endplate infarcts in 
this patient with sickle cell disease. 
  
___ CXR:
Bibasilar opacities may reflect atelectasis and/or pneumonia. 
There is new 
indistinctness of the pulmonary vasculature suggesting mild 
pulmonary edema. No pneumothorax. Small bilateral pleural 
effusions are suspected. The tip of a right chest wall 
Port-A-Cath projects over the distal SVC.

___ CXR:
Compared to chest radiographs ___.  
Moderate cardiomegaly is exaggerated by low lung volumes 
reflected in moderate bibasilar atelectasis.  No pulmonary 
edema.  Pleural effusions small on the right if any.  No 
pneumothorax. 
The right supraclavicular central venous infusion catheter ends 
close to the superior cavoatrial junction. 

DISCHARGE LABS: 
===============
___ 12:50PM BLOOD WBC-9.2 RBC-2.14* Hgb-7.0* Hct-20.6* 
MCV-96 MCH-32.7* MCHC-34.0 RDW-20.4* RDWSD-71.1* Plt ___
___ 12:50PM BLOOD Neuts-48.2 ___ Monos-11.3 
Eos-14.5* Baso-1.3* NRBC-0.5* Im ___ AbsNeut-4.42 
AbsLymp-2.24 AbsMono-1.04* AbsEos-1.33* AbsBaso-0.12*
___ 05:09AM BLOOD Ret Aut-12.1* Abs Ret-0.24*
___ 05:09AM BLOOD Glucose-91 UreaN-7 Creat-0.5 Na-136 K-4.3 
Cl-103 HCO3-24 AnGap-9*
___ 05:09AM BLOOD LD(LDH)-833* TotBili-2.9*
___ 05:09AM BLOOD Calcium-8.5 Phos-4.8* Mg-1.9
 
Brief Hospital Course:
Ms. ___ is a ___ yo woman with PMH of sickle cell anemia with 
multiple crises presents with pain crisis c/w prior, with 
admission Hb of 5.4 from baseline Hb of ~8, who was initially 
admitted to ICU for monitoring.  

#Sickle cell anemia  
#Pain crisis  
- She was admitted to FICU for possible need for exchange 
transfusion, but she did not have any clear indication for 
exchange transfusion and did not require it.  Admission 
hemoglobin of 5.4, for which she was transfused 2U pRBCs on 
___.  Sickle cell crisis was consistent with prior, with 
exception of left upper quadrant pain for which CT A/P was 
performed and showed atrophic spleen consistent with 
autosplenectomy.  Her pain was managed on a morphine PCA, 
Tylenol, and toradol.  She was stable and called out to medicine 
on ___.
- On the medicine service she required Dilaudid PCA plus PRN IV 
Dilaudid.  She was also on IV Toradol and scheduled Tylenol.  
She was given IV fluids.  She was continued on folic acid and 
started on Deferoxamine.  Hematology was following and 
recommended transfusion if Hct <18 (Hgb<6) or 2 point drop from 
baseline.  Transufsed 1 unit on ___. She was weaned 
to IV pain meds and ultimately transitioned to home regimen on 
___ prior to discharge. 

#Diarrhea: She developed non-bloody diarrhea. Negative C 
difficile test and stool ova/parasite exam. Likely side effect 
of augmentin, with course completed while inpatient for 
sinusitis

#Acute Sinusitis: She reported face pain and headache and CT 
head findings suggested acute sinusitis.  This infection have 
been a trigger for her pain crisis.  She was started on 
Augmentin 875mg q12H on ___ and continued for total of 10 days, 
finished on ___.

#Leukocytosis: This may have been due to sinusitis or infectious 
cause of diarrhea.  She was afebrile throughout her hospital 
course.  Initial blood cultures from ___ from port showed coag 
negative Staph and GPCs in clusters, but seems likely a 
contaminant, as blood culture ___ was negative for growth.   
Negative urine Strep and Legionella.  CXR and CT abdomen on ___ 
were without evidence of infection.  Negative C. difficile and 
stool ova/parasite exam.

#Eosinophilia: Unclear etiology, noted to be a chronic problem 
by outpatient hematologist. Hematology unconcerned here. She had 
negative stool ova/parasite. Can consider outpatient work-up on 
discharge. 

# Chiari 1 malformation: This was seen on MRI and CT of her 
head.  She had no cerebellar signs or cranial neuropathies or 
vision changes.  Her headache improved with treatment of 
sinusitis.  She should have neurology follow-up to monitor 
malformation over time.

#HFpEF:  Her home Lasix and metoprolol were held initially while 
hydrating for pain crisis. She remained normotensive with HR in 
___ so these were not restarted during her hospital course. 
On discussion with patient, she is no longer taking metoprolol. 
Lasix restarted prn on discharge.

#Rheumatoid arthritis: She was continued on home 
Hydroxychloroquine Sulfate 200 mg PO BID  

#Transitional issues
=====================
[ ] ensure vaccination status for pneumococcus, meningococcus, H 
flu, HBV  
[ ]Incidentally noted to have a Chiari ___ Malformation on MRI 
done for evaluation of headache on admission. Please consider 
neurology follow-up for ongoing MRI monitoring as outpatient
[ ]Please continue work-up for peripheral eosinophilia noted 
incidentally this admission. (Absolute eos 1,330 at discharge), 
strongy antibody negative
[ ]We discussed possibility of a narcan prescription in case of 
opioid overdose given high morphine dosing however patient 
declined at this time given her stable opioid regimen. Would 
consider prescription as outpatient
 
[x] >30 minutes spent on discharge planning and care 
coordination on the day of discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO TID:PRN Pain - Mild 
2. Acetaminophen-Caff-Butalbital 1 TAB PO Q4H:PRN Pain - Mild 
3. FoLIC Acid 3 mg PO DAILY 
4. Furosemide 10 mg PO DAILY:PRN leg swelling 
5. Hydroxychloroquine Sulfate 200 mg PO BID 
6. Morphine SR (MS ___ 60 mg PO Q8H 
7. Morphine Sulfate ___ ___ mg PO Q4H:PRN Pain - Moderate 
8. Multivitamins 1 TAB PO DAILY 
9. Jadenu (deferasirox) 360 mg oral BID 

 
Discharge Medications:
1.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation - First Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
2.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
3.  Acetaminophen-Caff-Butalbital 1 TAB PO Q4H:PRN Pain - Mild  
4.  Acetaminophen 1000 mg PO TID:PRN Pain - Mild  
5.  FoLIC Acid 3 mg PO DAILY  
6.  Furosemide 10 mg PO DAILY:PRN leg swelling  
7.  Hydroxychloroquine Sulfate 200 mg PO BID  
8.  Jadenu (deferasirox) 360 mg oral BID  
9.  Morphine SR (MS ___ 60 mg PO Q8H  
10.  Morphine Sulfate ___ ___ mg PO Q4H:PRN Pain - Moderate  
11.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sickle cell pain crisis
Sinusitis
Chiari 1 malformation
Peripheral eosinophilia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital with a sickle cell crisis.  We believe 
your sickle cell crisis was triggered by a sinus infection.  You 
were treated with pain medications and fluids for your sickle 
cell crisis with improvement in your pain. You are now ready for 
discharge and will be discharged on your home pain medications.  
 

An MRI of your brain showed an abnormality called Chiari 1 
malformation. The base of your brain is shaped different from 
others.  This is something you were born with. It is not causing 
you any harm but will need to be monitored over time by a 
neurologist for repeat head imaging.

While you were here you were noted to have elevated eosinophils, 
a type of white blood cell. This can sometimes happen due to 
medications or an allergic reaction. Your eosinophils were 
improving at discharge. You should follow-up with your 
hematologist for further work-up of this. 

Please follow-up with your primary care doctor, ___, 
and a Neurologist after discharge.

It was a pleasure taking care of you,
Your ___ Care Team
 
Followup Instructions:
___